US08106215B2
(1S,2S,5R)—N-[7-Methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-3-trifluoromethyl-benzamide
prepared by reaction of [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone with 3-(trifluoromethyl)-benzoic acid acid.

reactant | [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone | NC[C@@H]1[C@H]2CC(C[C@H]2CN1C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C)C | C21H27N3OS
reactant | 3-(trifluoromethyl)-benzoic acid | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
product | (1S,2S,5R)—N-[7-Methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-3-trifluoromethyl-benzamide | CC1C[C@H]2CN([C@@H]([C@H]2C1)CNC(C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C | C29H30F3N3O2S
